US05387585
6. By heating ethyl 6-[(2,2-dimethoxyethyl)amino]-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylate in acetic acid for 1.5 h. in an analogous manner to that described in Example 5, there is obtained ethyl 8H-diimidazo[1,5-a:1',2'-d]thieno[2,3-f][1,4]diazepine-7-carboxylate of m.p. 203°-204°.

reactant | ethyl 6-[(2,2-dimethoxyethyl)amino]-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylate | COC(CNC1=NCC=2N(C3=C1SC=C3)C=NC2C(=O)OCC)OC | C16H20N4O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 8H-diimidazo[1,5-a:1',2'-d]thieno[2,3-f][1,4]diazepine-7-carboxylate | S1C=CC2=C1C=1N(CC=3N2C=NC3C(=O)OCC)C=CN1 | C14H12N4O2S
